US06867205B2
5-Aminomethyl-2-dibenzofuran-2-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine
The title compound, MS: m/e=434.9 (M+), was prepared from dibenzofuran-2-carboxamidine and 2-(2,4-dichloro-benzylidene)-malononitrile in analogy to the process described in Example 11 as a solid.

reactant | dibenzofuran-2-carboxamidine | C1=C(C=CC=2OC3=C(C21)C=CC=C3)C(=N)N | C13H10N2O
reactant | 2-(2,4-dichloro-benzylidene)-malononitrile | ClC1=C(C=C(C#N)C#N)C=CC(=C1)Cl | C10H4Cl2N2
product | 5-Aminomethyl-2-dibenzofuran-2-yl-6-(2,4-dichloro-phenyl)-pyrimidin-4-ylamine | NCC=1C(=NC(=NC1C1=C(C=C(C=C1)Cl)Cl)C1=CC2=C(OC3=C2C=CC=C3)C=C1)N | C23H16Cl2N4O
